US07241770B2
(1R,2R)-(−)-2-Methylamino-cyclohexanol [For configuration/rotation relationship see J. Prakt. Chem. 329, 235 (1987), and Tetrahedron Asymm., 10, 4619 (1999)]
NaOH (108 g, 2.69 mol) was dissolved in water (350 ml). Brine (400 ml) was added and cooled to room temperature. Dichloromethane (300 ml) and (1R, 2R)-2-methylamino cyclohexanol (R)-mandelic acid salt (151.5 g, 538 mmol) were added and the mixture was stirred vigorously for 10 min. The layers were separated and the aqueous layer was again extracted with dichloromethane (3×200 ml). (separation of the layers is a time consuming process). The combined dichloromethane layers were dried (Na2SO4) and concentrated to give an oil (67.7 g, 97% yield). This oil was combined with two other batches of 2.3 g and 6.4 g (both with e.e.=99+%) and purified by Kugelrohr distillation (p=0.5 mbar, T=80-90° C.) giving a colorless oil (72.0 g, 92%) with 94% purity according to GC. This oil was again Kugelrohr distilled (p=0.3 mbar) giving two product containing fractions:

reactant | NaOH | 2.69 mol, 108 g | [OH-].[Na+]
reactant | Dichloromethane | 300 ml | ClCCl | CH2Cl2
reactant | (1R, 2R)-2-methylamino cyclohexanol (R)-mandelic acid salt | 538 mmol, 151.5 g | C([C@H](O)C1=CC=CC=C1)(=O)O.CN[C@H]1[C@@H](CCCC1)O
solvent | water | 350 ml | O | H2O
solvent | Brine | 400 ml | [Cl-].[Na+].O
product | (1R,2R)-(−)-2-Methylamino-cyclohexanol | 67.7 g, 97% yield | CN[C@H]1[C@@H](CCCC1)O | C7H15NO
